US09029560B2
Preparation of 4-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butan-1-ol (CA24)
To 4-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)but-3-yn-1-ol (C61) (0.376 g, 0.967 mmol) in a 100 mL round bottomed flask equipped with a stir bar and septa was added ethyl acetate (9.67 mL) followed by palladium on carbon (0.103 g, 0.0970 mmol). The reaction mixture was evacuated with vacuum and purged with hydrogen (balloon) (2×) and stirred at room temperature overnight. The reaction mixture was filtered through Celite®, washed with ethyl acetate and concentrated to provide the title compound as a white solid (0.363 g, 104%): 1H NMR (400 MHz, CDCl3) δ 8.65 (s, 1H), 8.15-8.08 (m, 2H), 7.94-7.88 (m, 2H), 7.80 (dd, J=8.2, 1.1 Hz, 2H), 7.34-7.28 (m, 2H), 3.74-3.66 (m, 2H), 3.66-3.60 (m, 1H), 2.72 (t, J=7.6 Hz, 2H), 1.81-1.71 (m, 2H), 1.69-1.60 (m, 2H); 19F NMR (376 MHz, CDCl3) δ −62.48; ESIMS m/z 362 ([M+H]+).

reactant | 4-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)but-3-yn-1-ol | 0.967 mmol, 0.376 g | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C#CCCO)(F)F | C19H14F3N3O
catalyst | palladium on carbon | 0.0970 mmol, 0.103 g | [Pd] | Pd
solvent | ethyl acetate | 9.67 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butan-1-ol | 0.363 g, 104% | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCCO)(F)F | C19H18F3N3O
